US05260423
Preparation of 7-methoxymethylbenzo-1,2,3-thiadiazole (Comp. No. 1.7)
1.4 g of sodium hydride (50% dispersion in oil) in 15 ml of absolute dimethyl sulfoxide are introduced into a reaction vessel, and a solution of 4.15 g of 7-hydroxymethylbenzo-1,2,3-thiadiazole in 15 ml of tetrahydrofuran is added dropwise at 0°-5° C. under a nitrogen atmosphere and with stirring, during which process hydrogen is evolved. After 20 minutes of stirring at 10° C., the mixture is cooled down to 0°-5° C., and a solution of 4 g of methyl iodide in 15 ml of tetrahydrofuran is added dropwise. Stirring is continued for another hour at room temperature, and the mixture is cooled, treated with ice-water, neutralised with dilute hydrochloric acid and extracted with ethyl acetate. The extracts are washed with water, dried over sodium sulfate and evaporated, and the residue is dried in a high vacuum, resulting in the title compound in the form of a yellow oil, nD27 =1.5912.

reactant | sodium hydride | 1.4 g | [H-].[Na+]
reactant | 7-hydroxymethylbenzo-1,2,3-thiadiazole | 4.15 g | OCC1=CC=CC=2N=NSC21 | C7H6N2OS
reactant | hydrogen | [H][H] | H2
reactant | methyl iodide | 4 g | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 15 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 7-methoxymethylbenzo-1,2,3-thiadiazole | COCC1=CC=CC=2N=NSC21 | C8H8N2OS
